US07994163B2
N-[4-(4-Bromo-phenyl)-thiazol-2-yl]-cyclopropylmethylamine
Slurry 4-bromophenacyl bromide (11.2 g, 50 mmol) in absolute ethanol (50 mL). Add N-cyclopropylmethyl-thiourea (6.5 g, 50 mmol) and sodium bicarbonate (4.2 g, 50 mmol), heat to reflux for 2 h, then stir at room temperature overnight. Concentrate to ¼ volume and partition between water/EtOAc (4:1, 500 mL). Extract the aqueous layer with EtOAc (2×75 mL). Dry the combined organic extracts over Na2SO4, filter and concentrate in vacuo to obtain the title compound (14.0 g, 91%) as an off-white solid that was used without further purification. MS (ES+) m/z: 310 (M+H)+.

reactant | 4-bromophenacyl bromide | 50 mmol, 11.2 g | BrC1=CC=C(C(CBr)=O)C=C1 | C8H6Br2O
reactant | N-cyclopropylmethyl-thiourea | 50 mmol, 6.5 g | C1(CC1)CNC(=S)N | C5H10N2S
reactant | sodium bicarbonate | 50 mmol, 4.2 g | C([O-])(O)=O.[Na+]
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | N-[4-(4-Bromo-phenyl)-thiazol-2-yl]-cyclopropylmethylamine | 14.0 g, 91% | BrC1=CC=C(C=C1)C=1N=C(SC1)NCC1CC1 | C13H13BrN2S
